US07105526B2
(2) Preparation of 5,6-dichloro-2-[1-methylsulfonylspiro[indoline-3,4′-piperidin]-1′-yl]benzimidazole
To a solution of 2,5,6-trichloro-N-tetrahydropyranyl-benzimidazole (213 mg, 0.70 mmol) and 1-methylsulfonylspiro[indoline-3,4′-piperidine] hydrochloride (168 mg, 0.56 mmol) in dioxane (10 mL) was added cesium carbonate (562 mg, 0.47 mmol). The mixture was stirred at 150° C. for 14 hours in a sealed tube and then cooled. After addition of water, the reaction mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated in vacuo. The resulting residue was dissolved in methanol (10 mL), and camphor sulfonic acid (100 mg, 0.70 mmol) was added thereto, then stirred at room temperature for 12 hours. The reaction mixture was concentrated in vacuo, and the residue was neutralized with 0.1M aqueous sodium hydroxide, then extracted with chloroform. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The precipitate formed upon addition of ethyl acetate to the residue was collected by filtration and dried to give the title compound (86 mg, 34%).

reactant | 2,5,6-trichloro-N-tetrahydropyranyl-benzimidazole | 0.70 mmol, 213 mg | ClC1=NC2=C(N1C1OCCCC1)C=C(C(=C2)Cl)Cl | C12H11Cl3N2O
reactant | 1-methylsulfonylspiro[indoline-3,4′-piperidine] hydrochloride | 0.56 mmol, 168 mg | Cl.CS(=O)(=O)N1CC2(CCNCC2)C2=CC=CC=C12
reactant | cesium carbonate | 0.47 mmol, 562 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | camphor sulfonic acid | 0.70 mmol, 100 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 5,6-dichloro-2-[1-methylsulfonylspiro[indoline-3,4′-piperidin]-1′-yl]benzimidazole | 86 mg, 34% | ClC1=CC2=C(N=C(N2)N2CCC3(CC2)CN(C2=CC=CC=C23)S(=O)(=O)C)C=C1Cl | C20H20Cl2N4O2S
